US04031093
2-n-Propoxybenzamidine methyl sulfate
The title compound (74% yield) was prepared from 2-n-propoxybenzamide in a manner similar to that described for the preparation of 2-ethoxybenzamidine methyl sulfate in Preparation 6 above.

reactant | 2-n-propoxybenzamide | C(CC)OC1=C(C(=O)N)C=CC=C1 | C10H13NO2
reactant | 2-ethoxybenzamidine methyl sulfate | COS(=O)(=O)O.C(C)OC1=C(C(=N)N)C=CC=C1
product | 2-n-Propoxybenzamidine methyl sulfate | 74% yield | COS(=O)(=O)O.C(CC)OC1=C(C(=N)N)C=CC=C1 | InChI=1S/C10H14N2O.CH4O4S/c1-2-7-13-9-6-4-3-5-8(9)10(11)12;1-5-6(2,3)4/h3-6H,2,7H2,1H3,(H3,11,12);1H3,(H,2,3,4)
